US08859553B2
6-(2-(2-Chloro-5-(6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)phenyl)ethynyl)-N-cyclopropylpyridazin-3-amine
The title compound was synthesized from N-cyclopropyl-6-ethynylpyridazin-3-amine and 2-(4-chloro-3-iodophenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole in a manner similar to that described for in Example 1. The title compound was obtained as a khaki solid. Mp: 130-131° C.; 1H NMR (300 MHz, CDCl3) δ: 8.11-8.13 (1H, d, J=6.0 Hz), 7.86 (1H, s), 7.64 (2H, m), 7.42-7.45 (1H, d, J=9.0 Hz), 7.39-7.42 (1H, d, J=9.0 Hz), 7.22 (1H, s), 7.01-7.04 (1H, d, J=9.0 Hz), 6.00 (1H, s), 3.61 (2H, s), 2.60 (1H, m), 2.44 (8H, brs), 2.27 (3H, s), 0.87-0.89 (2H, m), 0.65 (2H, m). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C28H29ClN7: 498.2167. found: 498.2150.

reactant | N-cyclopropyl-6-ethynylpyridazin-3-amine | C1(CC1)NC=1N=NC(=CC1)C#C | C9H9N3
reactant | 2-(4-chloro-3-iodophenyl)-6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazole | ClC1=C(C=C(C=C1)C1=NC2=C(N1)C=C(C=C2)CN2CCN(CC2)C)I | C19H20ClIN4
product | 6-(2-(2-Chloro-5-(6-((4-methylpiperazin-1-yl)methyl)-1H-benzo[d]imidazol-2-yl)phenyl)ethynyl)-N-cyclopropylpyridazin-3-amine | ClC1=C(C=C(C=C1)C1=NC2=C(N1)C=C(C=C2)CN2CCN(CC2)C)C#CC2=CC=C(N=N2)NC2CC2 | C28H28ClN7
